US05852016
(h) N-(7-Chloro-6-ethyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide
5-Amino-7-chloro-6-ethyl-2,3-dimethoxyquinoxaline was converted to the methane sulphonamide derivative by the method of step (g) above. The product was obtained in 47% yield.

reactant | 5-Amino-7-chloro-6-ethyl-2,3-dimethoxyquinoxaline | NC1=C2N=C(C(=NC2=CC(=C1CC)Cl)OC)OC | C12H14ClN3O2
reactant | methane sulphonamide | CS(=O)(=O)N | CH5NO2S
product | N-(7-Chloro-6-ethyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide | 47% yield | ClC1=C(C(=C2N=C(C(=NC2=C1)OC)OC)NS(=O)(=O)C)CC | C13H16ClN3O4S
